US05256679
To a solution of 1-(2-chloro-5-thiazolylmethyl)-3,3- dimethyl-2-nitroguanidine (0.300 g) in an aqueous NaOH solution (NaOH (0.319 g) and water (10 ml)) were added CH2Cl2 (10 ml) and 4-dimethylaminopyridine (0.013 g). To the mixture was added methanesulphonyl chloride (0.391 g) dropwise at room temperature under stirring. After stirring for 30 minutes, the mixture was partitioned. The organic layer was dried over MgSO, and concentrated in vacuo. The resulting residue was applied to column chromatography on silica gel. The column was eluted with hexane-AcOEt (1:1) to afford 0.160 g of 1-(2-chloro-5-thiazolylmethyl)-3,3-dimethyl-l-methanesulphonyl-2-nitroguanidine (Compound No. 28) as a pale yellow crystal, m.p. 82°-86° C.

reactant | 1-(2-chloro-5-thiazolylmethyl)-3,3- dimethyl-2-nitroguanidine | 0.300 g | ClC=1SC(=CN1)CNC(=N[N+](=O)[O-])N(C)C | C7H10ClN5O2S
reactant | NaOH | 10 ml, 0.319 g | [OH-].[Na+]
reactant | methanesulphonyl chloride | 0.391 g | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 0.013 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-chloro-5-thiazolylmethyl)-3,3-dimethyl-l-methanesulphonyl-2-nitroguanidine | 0.160 g | ClC=1SC(=CN1)CN(C(=N[N+](=O)[O-])N(C)C)S(=O)(=O)C | C8H12ClN5O4S2
